US07279481B2
3-[3-(2-Hydroxyethyl)phenyl]-1,3-oxazolidin-2-one
The title compound was prepared in 48% yield according to the general procedure for the preparation of amides, ureas and carbamates (Method A) starting from 2-(3-bromophenyl)ethanol and 1,3-oxazolidin-2-one.

reactant | 2-(3-bromophenyl)ethanol | BrC=1C=C(C=CC1)CCO | C8H9BrO
reactant | 1,3-oxazolidin-2-one | O1C(NCC1)=O | C3H5NO2
product | 3-[3-(2-Hydroxyethyl)phenyl]-1,3-oxazolidin-2-one | 48% yield | OCCC=1C=C(C=CC1)N1C(OCC1)=O | C11H13NO3
